Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8],7.64370313305
[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],3.90600735089
[H:12].[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([C:6]#[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.68043454998
[C:10]([H:11])[H:12].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-8.82592797603
[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.112152482769998
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],4.99961424352
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])=[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])[H:5],1.0571070183700002
[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8].[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.612507489
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][O:2][C:3][H:4]>>[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-7.311128319760001
[C:7]([H:8])([H:9])=[C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])([H:4])[C:5]=[O:6]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],1.9770563210900003
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10].[H:11],4.53388039006
[H:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-3.71689844148
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]1([H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],-2.86075436104
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8],5.791089287080001
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2]([H:3])[O:4][C:5]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],4.3944608664099984
[H:1][C:2]([H:3])=[C:4][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4],3.24044503561
[C:1]#[C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11].[H:12],2.83497563941
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-0.78458818619
[H:1][C:2]=[C:3]([H:4])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.56703335519
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2][C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.5195861679900005
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.56978590789
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.4952307656
[H:1][O:2][C:3]1=[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]1([H:11])[H:12]>>[H:1][O:2][C:3][C:10]([C:4][C:5]([H:6])=[C:7]([H:8])[H:9])([H:11])[H:12],3.82932635767
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17]>>[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17].[H:5],4.17205596061
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15],5.0732942
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.18438091694
